US08022099B2
f) [(3SR,4RS)-3-(4-Chloro-phenyl)-4-methylamino-pyrrolidin-1-yl]-(4-methanesulfonyl-piperazin-1-yl)-methanone
To a stirred solution of [(3RS,4SR)-4-(4-Chloro-phenyl)-1-(4-methanesulfonyl-piperazine-1-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid tert-butyl ester (860 mg, 1.72 mmol) in CH2Cl2 (8 ml) was added TFA (2 ml). The reaction mixture was stirred at RT for 2 hours, aqueous NaHCO3 was added until pH=8 and the product was extracted with CH2Cl2. The combined organic phase were dried over Na2SO4. Concentration under vacuo gave 680 mg (98%) of the title product as a white solid. ES-MS m/e: 401.3 (M+H+).

reactant | [(3RS,4SR)-4-(4-Chloro-phenyl)-1-(4-methanesulfonyl-piperazine-1-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid tert-butyl ester | 1.72 mmol, 860 mg | C(C)(C)(C)OC(N(C)C1CN(CC1C1=CC=C(C=C1)Cl)C(=O)N1CCN(CC1)S(=O)(=O)C)=O | C22H33ClN4O5S
reactant | TFA | 2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 8 ml | C(Cl)Cl | CH2Cl2
product | [(3SR,4RS)-3-(4-Chloro-phenyl)-4-methylamino-pyrrolidin-1-yl]-(4-methanesulfonyl-piperazin-1-yl)-methanone | 680 mg, 98% | ClC1=CC=C(C=C1)C1CN(CC1NC)C(=O)N1CCN(CC1)S(=O)(=O)C | C17H25ClN4O3S
